Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope and hyponatremia
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ MEDICINE ATTENDING ADMISSION NOTE .
.
___
Time: 0015
.
_
________________________________________________________________
PCP: ___ per CHA system. Per Cardiology consult note pt will 
need a new PCP.
. 
CC: ___
_
________________________________________________________________
HPI: 
___ yo male with hx HTN, prostatectomy presenting with 1 episode 
of syncope this AM. States he felt a bit dizzy while seated, 
stood up from chair, felt lightheaded (+ head spinning)  and 
fell on his Left side on tile floor without striking head, hip, 
knee, or elbow. Cites Left thigh as primary point of contact 
with floor. His wife was in the other room, she came as soon as 
she heard his fall. He was already helping Hhimself up. She got 
a dining room chair for him to lean on and stand upright. He 
then laid down in bed, had aspirin x3, water, felt better. He 
was admitted to ED obs overnight. He had an echo performed which 
demonstrated moderate AS. Cardiology saw him and did not think 
that this contributed to his syncope but recommended admission 
for evaluation of hyponatremia as his sodium declined from 129 
to 125 while in the ED.
 
==============================================
In ER: (Triage Vitals:
97.6 |67|148/67 |18 |99% RA  ) 
Meds Given: 
 IVF 1000 mL NS 1000 mL |Simvastatin 20 mg |Hydrochlorothiazide 
25 mg| Montelukast 10 mg| Omeprazole 20 mg |Simvastatin 20 mg 
|IVF 1000 mL NS  

Fluids given: 2L NS
Radiology Studies: Head CT| CXR
Consults called: cardiology

.
Upon arrival to the floor:
PAIN SCALE: ___ 
He can recount the above history but states that this happened a 
few week ago. He denies f/c/n/v/chest pain/sob/diarrhea. 
All other ROS negative except as above.

 
Past Medical History:
PAST MEDICAL HISTORY:  
HTN
HLD
GERD
Allergies
 
PAST SURGICAL HISTORY:  
s/p prostatectomy 

 
Social History:
___
Family History:
He didn't know his mother. His father died of stomach cancer. 
 
Physical Exam:
Vitals:  T 97.4,  P   BP  149/78RR 18 SaO2 98% on RA 
GEN: NAD, comfortable appearing  
HEENT: ncat anicteric MMM, HOH  
NECK:  Supple, flat JVP
CV: s1s2 rr  ___ SEM at LUSB and ___ SEM at LLSB
RESP: b/l ae no w/c/r  
ABD: +bs, soft, NT, ND, no guarding or rebound  
back:  
EXTR:no c/c/e 2+pulses  
DERM: no rash  
NEURO: A and O x 2 but only with much prompting he could tell me 
that he was in a hospital. He thinks that its ___. He is unable 
to tell me the months of the year backwards. His CN II -XII are 
grossly symmetric. ___ strength in b/l upper and lower 
extremities  b/l
PSYCH: calm, cooperative  

DISCHARGE EXAM
Vitals 97.7- 162/75-58-18-99RA
repeat orthostatics negative 
GEN: NAD, comfortable appearing  
HEENT: ncat anicteric MMM, HOH  
NECK:  Supple, flat JVP
CV: s1s2 rr  ___ SEM at ___ and ___ SEM at ___
RESP: b/l ae no w/c/r  
ABD: +bs, soft, NT, ND, no guarding or rebound  
back:  
EXTR:no c/c/e 2+pulses  
DERM: no rash  
NEURO: A and O to hospital (can't recall which one), ___ (it is ___, year. His CN II -XII are grossly symmetric. 
___ strength in b/l upper and lower extremities  b/l
PSYCH: calm, cooperative  

 
Pertinent Results:
___ 03:40PM URINE  HOURS-RANDOM CREAT-46 SODIUM-103 
POTASSIUM-39 CHLORIDE-112
___ 03:40PM URINE  HOURS-RANDOM CREAT-46 SODIUM-103 
POTASSIUM-39 CHLORIDE-112
___ 03:40PM URINE  UHOLD-HOLD
___ 03:40PM URINE  GR HOLD-HOLD
___ 03:40PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 12:34PM   GLUCOSE-103* UREA N-17 CREAT-0.8 SODIUM-129* 
POTASSIUM-4.1 CHLORIDE-90* TOTAL CO2-27 ANION GAP-16
___ 12:34PM   estGFR-Using this
___ 12:34PM   CALCIUM-9.8 PHOSPHATE-3.6 MAGNESIUM-2.0
___ 12:34PM   WBC-9.1 RBC-4.67 HGB-14.4 HCT-41.5 MCV-89 
MCH-30.8 MCHC-34.7 RDW-12.4 RDWSD-40.2
___ 12:34PM   NEUTS-77.9* LYMPHS-14.3* MONOS-6.3 EOS-0.7* 
BASOS-0.4 IM ___ AbsNeut-7.10* AbsLymp-1.30 AbsMono-0.57 
AbsEos-0.06 AbsBaso-0.04
___ 12:34PM   PLT COUNT-332
==================================

___ 06:30AM BLOOD WBC-7.9 RBC-4.20* Hgb-13.2* Hct-37.5* 
MCV-89 MCH-31.4 MCHC-35.2 RDW-12.3 RDWSD-39.7 Plt ___
___ 06:30AM BLOOD Neuts-57.9 ___ Monos-10.1 Eos-4.8 
Baso-0.8 Im ___ AbsNeut-4.60 AbsLymp-2.06 AbsMono-0.80 
AbsEos-0.38 AbsBaso-0.06
___ 06:30AM BLOOD ___ PTT-28.8 ___
___ 06:30AM BLOOD Glucose-97 UreaN-11 Creat-0.8 Na-130* 
K-3.5 Cl-93* HCO3-28 AnGap-13
___ 06:30AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.0
___ 10:14PM BLOOD Osmolal-260*
___ 10:14PM URINE Hours-RANDOM Creat-269 Na-83 K-69 Cl-67
___ 03:40PM URINE Hours-RANDOM Creat-46 Na-103 K-39 Cl-112

Normal sinus rhythm. Intraventricular conduction delay. 
Otherwise, normal
tracing. No previous tracing available for comparison.
RatePRQRSQTQTc (___)  ___ ___

CXR IMPRESSION: No radiographic evidence of pneumonia.
 
___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       Portable TTE 
(Complete) Done ___ at 9:48:43 AM      FINAL
Referring Physician ___ Emergency Medicine
___
Age ___ MHgt (in):71
BP (mm Hg):147/77Wgt (lb):180
HR (bpm):66BSA (m2):2.02 m2
Indication:Aortic valve disease.
Diagnosis:I11.9, I34.0, I36.8, R55, I35.9
___ Information
___ at 09:48 ___, MD
___ Type:Portable TTE (Complete)
3D ___, ___
Doppler:Full Doppler and color DopplerTest ___
Contrast:NoneTech Quality:Adequate
Tape #:___-0:00Machine:E9-1
Echocardiographic Measurements
ResultsMeasurementsNormal Range
Left Atrium - Long Axis Dimension:*4.3 cm<= 4.0 cm
Left Atrium - Four Chamber Length:4.3 cm<= 5.2 cm
Left Atrium - Volume:35 ml< 40 ml
Left Atrium - LA Volume/BSA:17 ml/m2<= 28 ml/m2
Right Atrium - Four Chamber Length:4.9 cm<= 5.0 cm
Left Ventricle - Septal Wall Thickness:
*1.2 cm0.6 - 1.1 cm
Left Ventricle - Inferolateral Thickness:
*1.2 cm0.6 - 1.1 cm
Left Ventricle - Diastolic Dimension:
4.1 cm<= 5.6 cm
Left Ventricle - Ejection Fraction:
63%>= 55%
Left Ventricle - Stroke Volume:
57 ml/beat 
Left Ventricle - Cardiac Output:
3.73 L/min 
Left Ventricle - Cardiac Index:
*1.85>= 2.0 L/min/M2
Left Ventricle - Lateral Peak E':
0.09 m/s> 0.08 m/s
Left Ventricle - Septal Peak E':
*0.06 m/s> 0.08 m/s
Left Ventricle - Ratio E/E':
9< 13
Aorta - Sinus Level:2.6 cm<= 3.6 cm
Aorta - Ascending:3.4 cm<= 3.4 cm
Aortic Valve - Peak Velocity:
*2.7 m/sec<= 2.0 m/sec
Aortic Valve - Peak Gradient:
*29 mm Hg< 20 mm Hg
Aortic Valve - Mean Gradient:
12 mm Hg 
Aortic Valve - LVOT VTI:
18 
Aortic Valve - LVOT diam:
2.0 cm 
Aortic Valve - Valve Area:
*1.2 cm2>= 3.0 cm2
Mitral Valve - E Wave:0.7 m/sec 
Mitral Valve - A Wave:0.9 m/sec 
Mitral Valve - E/A ratio:0.78 
Mitral Valve - E Wave deceleration time:*312 ms140-250 ms
TR ___ (+ RA = PASP):
22 mm Hg<= 25 mm Hg
Findings
Multiplanar reconstructions were generated and confirmed on an 
independent workstation.
LEFT ATRIUM: Mildly increased LA volume index. 

LEFT VENTRICLE: Mild symmetric LV hypertrophy with normal cavity 
size, and regional/global systolic function (3D LVEF>55%). No 
resting LVOT gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. Normal 
ascending aorta diameter. 

AORTIC VALVE: Moderately thickened aortic valve leaflets. 
Moderate AS (area 1.0-1.2cm2) Trace AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. No MVP. 
Mild mitral annular calcification. Calcified tips of papillary 
muscles. Moderate (2+) MR. 

___ VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 
Normal PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not well seen. 

PERICARDIUM: No pericardial effusion.
Conclusions
The left atrial volume index is mildly increased. Mild symmetric 
left ventricular hypertrophy with normal cavity size, and 
regional/global systolic function (3D LVEF = 63%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets are moderately thickened. There is 
moderate aortic valve stenosis (valve area 1.0-1.2cm2). Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Moderate 
(2+) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 

IMPRESSION: Symmetric LVH with normal global and regional 
biventricular systolic function. Mild to moderate calcific 
aortic stenosis. Moderate mitral regurgitation. 

CT HEAD
IMPRESSION:
1. No acute intracranial process.
2. Extensive paranasal sinus disease, correlate with symptoms of 
acute
sinusitis.
 
Brief Hospital Course:
___ year old male with h/o HTN, HLD who presents with a second 
pre-syncopal event in two months. He was found to have aortic 
stenosis and mitral regurgitation, mild encephalopathy in the 
setting of hyponatremia. He has not had physician ___ in 
several years (gets his meds through the ___. His HCTZ was 
stopped, gave script for long-acting dilt (from his med list, 
unclear if he is on short or long-acting dilt), made new primary 
care and cardiology appointment at ___. He returned to his 
baseline per wife (with concurrent improvement in sodium), noted 
to have mild cognitive deficits (per wife, baseline). 

HYPONATREMIA:
.
PRESYNCOPAL EPISODE: ddx includes 
pre-syncope/dehydration/orthostatic hypotension/arrhythmia vs 
CNS event. Unlikely orthostasis, but possibly in the setting of 
hyponatremia. Head CT reassuring, orthostatics negative but 
after pt received IVF. Cardiology was consulted in the ED and do 
not think that valvular heart disease contributed to syncopal 
event. No events on telemetry. No need for holter at this time, 
instead, he will follow up with cardiology and they will 
consider event monitor if there are further events.
.
HYPONATREMIA:  FENA < 1% , but on diuretics, overall most likely 
due to HCTZ, which was stopped.
.
HLD: continue statin and ASA
.
HTN: Continued home valsartan and diltiazem (prescribed 
long-acting silt as appeared to be on short-acting through ___, 
but unclear). ___ need up titration of antihypertensives in the 
future, would avoid HCTZ.

TRANSITIONAL ISSUES
- Optimize BP regimen off of HCTZ (continued valsartan, 
diltiazem on d/c)
- Recheck sodium next week
- Contact: HCP ___ (wife), ___ 
- ___ mild normocytic anemia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Diltiazem Extended-Release 120 mg PO DAILY 
3. Montelukast 10 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Simvastatin 20 mg PO QPM 
7. Valsartan 320 mg PO DAILY 
8. mometasone 220 mcg (60 doses) inhalation DAILY 2 puffs 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl 120 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
3. Montelukast 10 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. mometasone 220 mcg (60 doses) inhalation DAILY 2 puffs 
6. Simvastatin 20 mg PO QPM 
7. Valsartan 320 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
SYNCOPE
HYPOTONIC HYPONATREMIA
TOXIC METABOLIC ENCEPHALOPATHY/DELIRIUM

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking part in your care at ___! You were 
admitted for pre-syncope (lightheadedness) and low sodium. We 
think this is related to your hydrochlorothiazide (HCTZ), a 
known side effect. You were a little 'off' while your sodium is 
low, which can also be a side effect of low sodium. You improved 
once we stopped your HCTZ. You should continue to HOLD your 
HCTZ. 

I am also concerned that you are taking the short-acting version 
of diltiazem, as opposed to the long-acting version (XR) at 
home, so I gave you a script for the long-acting version. You 
can fill it through the ___ or your local pharmacy if you'd like. 


Most importantly, I want you to re-establish with a primary care 
doctor. Though we talked about a primary care doctor at ___, 
the doctors there ___ taking new patients right now. I still 
think a new primary care doctor extremely important, so we set 
you up with a new doctor here at ___ (also where Dr. ___, 
cardiologist is located). You may end up wanting to find a 
doctor closer to your home, but please start by keeping this 
appointment and see Dr. ___ week in follow up. 
 
Followup Instructions:
___